### PR TITLE
Lambda calculus and Scott's Representation Theorem

### PR DESCRIPTION
**Pull request by arnoudvanderleer**
This PR formalizes a part of Hyland's 2013 paper "Classical lambda calculus in modern dress". It adds lambda theories, presheaves for algebraic theories, their categories (including univalence and limits), some tools in the library (mainly for defining the categories, working with them, and proving that they have limits), and ultimately shows Scott's Representation Theorem (and so it contains all results and definitions needed by this theorem).
The changes in the `AlgebraicTheories` package can be categorized as follows:
* Basic definitions: `AlgebraicTheor(ies2?|yMorphisms2?|yCategory)`
* The same for `Algebra`, `Presheaf` en `Lambda`.
* Some changes and updates to `Examples`, which are examples and standard constructions for these definitions.
* Some miscellaneous files: `FiniteSetSkeleton`, `LambdaAlgebraMonoid`, `LambdaCalculus`, `Tuples`.
* `RepresentationTheorem`. Here (almost) everything comes together to prove the representation theorem.

### CODE REVIEW

**Comment by rmatthes** [comment]
Error message from CI:
``-- checking the ordering prescribed by the files UniMath/*/.packages/files ---
error: *** UniMath/CategoryTheory/DisplayedCats/Examples/Sigma.vo should not require UniMath/CategoryTheory/DisplayedCats/Limits.vo``

**Comment by rmatthes** [comment]
I looked into the proof of `plus_p_presheaf_is_functor` in the "very slow" file. As CI indicates, the jobs are running for 6 hours without success. And most of it is at `Qed` of this proof. So, there is a proof that completes (no more goals left), but it cannot be checked in hours. The proof should start with `split` since the second proof case is not dependent on the first one. But the problems are deeper. There are multiple `simpl` and one `cbn` to prepare rewrite steps. Rewrite steps with `transportf_const` and `transportb_const` definitely need such preparations since they only work if a dummy dependency has been detected. Such rewrites could be avoided with custom instances that "know" that the displayed morphisms in this situation have dummy dependency on their underlying morphism. 
For example, with
``Lemma plus_p_presheaf_is_functor_auxf
    (P P' : presheaf_cat L) (T : ob algebraic_theory_cat) (x x' : algebraic_theory_cat ⟦ pr11 L, T⟧) (H : x = x') (F : pr1 P -->[ x] pr1 P') :
    transportf (fun x => mor_disp (pr1 P) (pr1 P') x) H F = F.
  Proof.
    unfold mor_disp.
    simpl.
    rewrite transportf_const.
    apply idpath.
  Qed.``
It could be worthwhile replacing the other rewrites also by application of lemmas (by exposing the reducible expression through uses of `etrans` or even `intermediate_path` and dedicated applications of `maponpaths`). When experimenting with that, I see that the terms shown in the goals often cannot be read back by Coq, i.e., they cannot be copied into the .v file. Already in the beginning of the current two proof cases, there is a lot of rearrangement of the typing information. So, the proof can hardly be guided by intuition on the abstract level - and is rather driven by simplification in terms of components one would rather not like to see.
This is more an analysis of symptoms than a diagnosis, let alone a cure. It is important to keep in mind that the proof terms are huge (the implicit arguments and coercions are only hidden in default printing). In every upstream definition (the file itself looks okay), there could be proof parts that are not made opaque and that make the current proof terms intractable.
As long as the `Qed` takes "ages", it would be better to cancel off the building efforts in CI by hand (every time the PR is modified).

**Comment by m-lindgren** [comment]
You could add [skip ci] to the title of this workflow to have ci not run when you make modifications.

**Comment by rmatthes** [comment]
@arnoudvanderleer Please merge the master branch of UniMath into your branch - this makes it easier to inspect your proposal without having to recompile so much. There were also small additions to displayed categories (to profit better from local propositionality, for example).

**Comment by nmvdw** [comment]
> You could add [skip ci] to the title of this workflow to have ci not run when you make modifications.

Yes, please. The reason why this PR is created, is because @arnoudvanderleer met some problems with slow type checking in the code. I think it is easier to provide help when there's a PR (in general, I think that WIP PRs are a good thing). There's no reason to let the CI run on code of which we know that type checking is too slow: it only wastes resources.

**Comment by rmatthes** [comment]
For me, "slow" is an euphemism here. It rather looks like nobody ever saw the termination of type-checking for this proof.

**Comment by arnoudvanderleer** [comment]
> You could add [skip ci] to the title of this workflow to have ci not run when you make modifications.

Like this? In the title of the PR?

**Comment by rmatthes** [comment]
I do not know, but I would rather expect it in the commit message because it is the commit that triggers the CI.

**Comment by m-lindgren** [comment]
> I do not know, but I would rather expect it in the commit message because it is the commit that triggers the CI.

Yes that's correct, I misremembered thinking it was in the title. Here's the documentation: https://docs.github.com/en/actions/managing-workflow-runs/skipping-workflow-runs

**Comment by nmvdw** [comment]
Are there any other problems remaining with proofs whose type checking take too long?

**Comment by arnoudvanderleer** [comment]
> Are there any other problems remaining with proofs whose type checking take too long?

Currently there are not. However, I will close this PR for now, work a bit more on the code, and then reopen this (or another one) for review

**Comment by arnoudvanderleer** [comment]
> Are there any other problems remaining with proofs whose type checking take too long?

Currently there are not. However, I will close this PR for now, work a bit more on the code, and then reopen this (or another one) for review

**Comment by JasonGross** [comment]
If you can replace (almost) all your calls to `simpl` with an explicit `unfold`, and then do `Local Strategy -1 [${list from unfold}]`, then `Qed` should go fast.  The hard part is figuring out what constants you want to unfold and which ones you don't

**Comment by nmvdw** [comment]
> If you can replace (almost) all your calls to `simpl` with an explicit `unfold`, and then do `Local Strategy -1 [${list from unfold}]`, then `Qed` should go fast. The hard part is figuring out what constants you want to unfold and which ones you don't

How does this compare to `cbn -[identifiers]` and `cbn [idenfitiers]` in performance? And how does it compare to adding `Opaque identifiers`? These are the methods that I have been using to improve the perfomance of `Qed`.

**Comment by nmvdw** [comment]
Interesting! Thank you for the explanation and the pointer.

In this case, I helped Arnoud via the UniMath Zulip (https://unimath.zulipchat.com/#narrow/stream/322787-Help-needed-when-working-with-UniMath.2FCoq/topic/Slow.20proof/near/392522947), and the solution consisted of:
- do not use `cbn` and `simpl`
- avoid unecessary eta-expansion for pairs
- instead of using rewrite, the proof was done more directly by giving the proof term step-by-step (i.e., via `refine`). This way, `cbn` and `simpl` was not necessary.

I also met another cause for slow proofs in UniMath, namely high memory consumption. In those cases, the method to improve the performance, is by making proof scripts smaller, and then using `refine` instead of `rewrite` tends to help (if I am right, `rewrite` leads to bigger proof terms). Interestingly, I also met cases where `Unset Kernel Term Sharing` helped (https://github.com/UniMath/UniMath/blob/9e43b0d347aea512a2f999f5e3581e8c89ae7236/UniMath/Bicategories/DoubleCategories/DoubleFunctor/Associator.v).

**Comment by arnoudvanderleer** [comment]
> Regarding cbn, see https://github.com/coq/coq/wiki/Troubleshooting#what-can-i-do-when-qed-is-slow for a moderately extensive explanation I wrote a while back. `Opaque` is the same as `Strategy opaque` (if I'm correctly recalling the syntax), which is effectively strategy "infinity"; it tells Qed to unfold that identifier as late as possible. (Negative infinity is `Strategy expand`.). Using `cbn [identifiers]` together with `Strategy <some negative number> [identifiers]` is slightly more principled than using `cbn -[identifiers]` with `Strategy <some positive number> [identifiers]` because the latter is more likely to have constants treated differently by `cbn` vs `Qed` (namely, any constant not in the list of identifiers might be a source of difference when you are doing `cbn -`). (Btw, it's possible that I've swapped negative and positive in my recollection of `Strategy` levels, it's been a while since I've used them.)

Thank you! That is interesting to look into!

File: UniMath/AlgebraicTheories/AlgebraFibration.v [hunk 1]
```diff
@@ -1,48 +1,42 @@
-(* Shows that algebraic theory algebras are fibered over algebraic theories. *)
+(**************************************************************************************************
 
+  The algebra fibration
+
+  This file shows that algebras form a grothendieck fibration (a displayed category with a cleaving)
```
Comment (benediktahrens) [inline UniMath/AlgebraicTheories/AlgebraFibration.v:5]: Names are capitalized
```suggestion
  This file shows that algebras form a Grothendieck fibration (a displayed category with a cleaving)
```

File: UniMath/AlgebraicTheories/AlgebraicTheories.v [hunk 2]
```diff
@@ -1,25 +1,37 @@
-(*
+(**************************************************************************************************
+
+  Algebraic Theories
+
   These objects are known by many names: algebraic theories, abstract clones, cartesian operads
-  and lawvere theories. This file defines them, gives two ways of constructing them, gives
-  corresponding accessors of the data and some derived properties and provides an equality lemma.
-*)
+  and lawvere theories. This file defines them and gives constructors, accessors and related
```
Comment (benediktahrens) [inline UniMath/AlgebraicTheories/AlgebraicTheories.v:6]: Names are capitalized
```suggestion
  and Lawvere theories. This file defines them and gives constructors, accessors and related
```

File: UniMath/AlgebraicTheories/Examples/FreeTheory.v [hunk 3]
```diff
@@ -0,0 +1,176 @@
...
+        ).
+    +  (
+        refine (λ (F : algebraic_theory_morphism _ _), _);
+        apply algebraic_theory_morphism_eq;
+        intros ? f;
+        induction f;
+        [ exact (!algebraic_theory_morphism_preserves_projections _ _)
+        | refine (lift_constant_eq _ _ _ _ (idpath _) @ _);
+          exact (!algebraic_theory_morphism_preserves_composition F _ _ _ _
+            : _ = F _ (lift_constant _ _)) ]
```
Comment (benediktahrens) [inline UniMath/AlgebraicTheories/Examples/FreeTheory.v:163]: This part of the construction is not opacified. Should it be?

In general, would it be a good idea to introduce some intermediate definitions and/or lemmas for this construction?

File: UniMath/AlgebraicTheories/Examples/OnePointTheory.v [hunk 4]
```diff
@@ -1,20 +1,29 @@
-(*
-  Define the terminal algebraic theory given by T(n) = unit
-  and show that its only algebra is the unit type.
-*)
+(**************************************************************************************************
 
+  The "one point" algebraic theory
+
+  The trivial algebraic theory T is given by T(n) = {*}. Coindicentally, this is the terminal
```
Comment (benediktahrens) [inline UniMath/AlgebraicTheories/Examples/OnePointTheory.v:5]:
```suggestion
  The trivial algebraic theory T is given by T(n) = {*}. Coincidentally, this is the terminal
```

File: UniMath/AlgebraicTheories/Examples/Plus1Presheaf.v [hunk 5]
```diff
@@ -0,0 +1,74 @@
...
+  1. The definition of the plus 1 presheaf [plus_1_presheaf]
+
+ **************************************************************************************************)
+Require Import UniMath.Foundations.All.
+Require Import UniMath.MoreFoundations.All.
+Require Import UniMath.CategoryTheory.Core.Functors.
+
+Require Import UniMath.AlgebraicTheories.AlgebraicTheories.
+Require Import UniMath.AlgebraicTheories.Presheaves.
+Require Import UniMath.AlgebraicTheories.Tuples.
```
Comment (benediktahrens) [inline UniMath/AlgebraicTheories/Examples/Plus1Presheaf.v:18]: This construction could be an instance of a more general construction, e.g., precomposition of a functor by an endofunctor. Formalizing it this way might be less convenient, though. Have you looked into that?

File: UniMath/AlgebraicTheories/FiniteSetSkeleton.v [hunk 6]
```diff
@@ -1,9 +1,18 @@
...
 
+  A skeleton of finite sets
+
+  Defines the full subcategory of SET, consisting of the sets {0, ..., n-1} and the functions
+  between them.
+
+  Contents
+  1. The category [finite_set_skeleton_category]
+
+ **************************************************************************************************)
```
Comment (benediktahrens) [inline UniMath/AlgebraicTheories/FiniteSetSkeleton.v:11]: I believe this category exists already somewhere in the library.

**Review by benediktahrens — COMMENTED** [review]
This is only a partial review, of some of the files.

**Comment by nmvdw** [comment]
> @nmvdw @rmatthes @m-lindgren Thank you for your earlier comments.
> My proofs are not so slow anymore, so could you take a look at the code for a review?

I can take a look at it on Friday. For the other days, I cannot promise that I have the time to check it.

File: UniMath/AlgebraicTheories/Examples/FreeTheory.v (hunk 3 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/Examples/FreeTheory.v:163]: Oh, right. I think I forgot to add the `abstract` back after testing something.

It is indeed probably good to split this one.

File: UniMath/AlgebraicTheories/FiniteSetSkeleton.v (hunk 6 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/FiniteSetSkeleton.v:11]: Would this be in `UniMath.UniMath.CategoryTheory.categories`?

File: UniMath/Combinatorics/StandardFiniteSets.v [hunk 7]
```diff
@@ -26,6 +26,17 @@ Proof.
...
+Lemma stn_eq
+  {n : nat}
+  (i i' : stn n)
+  (H : pr1 i = pr1 i')
+  : i = i'.
+Proof.
+  refine (subtypePath _ H).
+  intro.
+  apply isasetbool.
+Qed.
```
Comment (nmvdw) [inline UniMath/Combinatorics/StandardFiniteSets.v:38]: Do you really want to make this a `Qed`? There is some data in this definition, because the path `pr1 i = pr1 i'` is the same as an isomorphism

File: UniMath/CategoryTheory/limits/terminal.v [hunk 8]
```diff
@@ -123,6 +123,39 @@ Section Terminal_and_EmptyProd.
     abstract (intros t; apply ProductArrowUnique; intros i; apply (fromempty i)).
   Defined.
 
+  Definition Terminal_is_empty_product
```
Comment (nmvdw) [inline UniMath/CategoryTheory/limits/terminal.v:126]: I would suggest to split this definition into several subdefinitions. The nesting currently goes rather deep, and it becomes more readable if it is split up.

File: UniMath/CategoryTheory/limits/graphs/limits.v [hunk 9]
```diff
@@ -60,6 +60,18 @@ Definition is_cone_mor {C : precategory} {g : graph} {d : diagram g C} {c1 : C}
...
 
+Definition constant_cone
+  {C : category}
+  (J : graph)
+  (c : C)
+  : cone (constant_diagram J c) c.
+Proof.
+  use tpair.
+  - exact (λ _, identity c).
+  - do 3 intro.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/limits/graphs/limits.v:71]: abstract

File: UniMath/CategoryTheory/DisplayedCats/Examples.v [hunk 10]
```diff
@@ -425,9 +425,12 @@ Defined.
 Local Notation "'π'" := (pr1_category disp_cat_functor_alg).
 
 Definition creates_limits_functor_alg
-  : creates_limits disp_cat_functor_alg.
+  : creates_limits_unique disp_cat_functor_alg.
 Proof.
-  intros J D x L isL.
+  unfold creates_limits_unique.
+  intros J D.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples.v:431]: What is opposed to doing `intros J D L`?

File: UniMath/CategoryTheory/DisplayedCats/Examples.v [hunk 11]
```diff
@@ -564,200 +567,4 @@ Definition disp_cat_monad_alg : disp_cat C
 
 End monad_algebras.
 
-(** * Any category is a displayed category over unit *)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples.v:567]: What happened with this code?

File: UniMath/CategoryTheory/DisplayedCats/Fiber.v [hunk 12]
```diff
@@ -165,6 +166,30 @@ Section Fiber.
     apply is_univalent_fiber_cat.
   Defined.
 
+  Definition fiber_to_total_functor_data
+  : functor_data fiber_category (total_category D).
+  Proof.
+    use make_functor_data.
+      + exact (tpair _ c).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Fiber.v:173]: `-` can be used and the indenting is too deep

File: UniMath/CategoryTheory/DisplayedCats/Fiber.v [hunk 13]
```diff
@@ -165,6 +166,30 @@ Section Fiber.
...
+      + exact (λ _ _, tpair _ (identity c)).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Fiber.v:174]: Why not use `,,`?

File: UniMath/CategoryTheory/limits/binproducts.v [hunk 14]
```diff
@@ -1481,3 +1484,130 @@ Proof.
...
          apply (BinProductPr2Commutes _ _ _ (make_BinProduct _ _ _ _ _ _ H))).
 Defined.
+
+Section BinProductsFromProducts.
+
+Context {C : category}.
+Context (c d : C).
+
+Local Definition binproduct_indexing_set : UU
+  := coprod unit unit.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/limits/binproducts.v:1494]: Why not use `bool` (like https://github.com/UniMath/UniMath/blob/5acbf27dcf69fec03cd4804b95f0a679a467320e/UniMath/Foundations/Sets.v#L163)?

File: UniMath/CategoryTheory/limits/binproducts.v [hunk 15]
```diff
@@ -1481,3 +1484,130 @@ Proof.
...
+
+Local Definition binproduct_indexed_objects : binproduct_indexing_set → C.
+Proof.
+  intro i.
+  induction i.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/limits/binproducts.v:1499]: By using bool, you can make this function more readable by using `if then else`

File: UniMath/CategoryTheory/limits/binproducts.v [hunk 16]
```diff
@@ -1481,3 +1484,130 @@ Proof.
...
+  - exact c.
+  - exact d.
+Defined.
+
+Context (P : Product binproduct_indexing_set C binproduct_indexed_objects).
+
+Definition BinProduct_from_Product
+  : BinProduct _ c d.
+Proof.
+  use ((_ ,, _ ,, _) ,, (λ p' pr1' pr2', ((_ ,, _ ,, _) ,, _))).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/limits/binproducts.v:1509]: If you use unicode, it might be nice to call these projections `\pi_1` and `\pi_2`.

File: UniMath/CategoryTheory/limits/binproducts.v [hunk 17]
```diff
@@ -1481,3 +1484,130 @@ Proof.
...
+  - apply ProductArrow.
+    intro i.
+    induction i.
+    + exact pr1'.
+    + exact pr2'.
+  - exact (ProductPrCommutes _ _ _ P _ _ (inl tt)).
+  - exact (ProductPrCommutes _ _ _ P _ _ (inr tt)).
+  - abstract (
+      intro t;
+      apply subtypePairEquality';
```
Comment (nmvdw) [inline UniMath/CategoryTheory/limits/binproducts.v:1522]: `use subtypePath` might be nicer (it might avoid eta expanding)

File: UniMath/CategoryTheory/limits/binproducts.v [hunk 18]
```diff
@@ -1481,3 +1484,130 @@ Proof.
...
+
+End BinProductsFromProducts.
+
+Definition BinProducts_from_Products
+  {C : category}
+  (P : Products (coprod unit unit) C)
+  : BinProducts C
+  := λ c d, BinProduct_from_Product c d (P _).
+
+Definition n_power_to_sn_power
```
Comment (nmvdw) [inline UniMath/CategoryTheory/limits/binproducts.v:1543]: It might be nicer to split this statement into lemmas.

File: UniMath/CategoryTheory/DisplayedCats/Examples/Sigma.v [hunk 19]
```diff
@@ -1,3 +1,12 @@
+(* For displayed categories D over C and E over total_category D,
+  the sigma category of E is a displayed category over C,
+  with dependent pairs of objects and morphims of D and E as objects and morphisms.
+  This file defines and proves
+  - The sigma category: sigma_disp_cat;
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Sigma.v:5]: By using `[sigma_disp_cat]` there should be links (I think)

File: UniMath/CategoryTheory/DisplayedCats/Examples/Sigma.v [hunk 20]
```diff
@@ -118,6 +129,96 @@ Proof.
...
+          pose (Hf' := λ u, maponpaths (# sigma_to_E_total_functor)%cat (pr2 t u));
+          pose (uniq := limArrowUnique d_cone _ e_cone f' Hf');
+          exact (maponpaths (# E_to_sigma_total_functor)%cat uniq) ]
+      ).
+  Defined.
+
+End Limits.
+
+Definition creates_limits_sigma_disp_cat
+  {J}
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Sigma.v:210]: You can add the type of `J`

File: UniMath/CategoryTheory/DisplayedCats/Examples/Sigma.v [hunk 21]
```diff
@@ -118,6 +129,96 @@ Proof.
...
+
+  Lemma forms_cone_sigma_disp_cat
+    (u v : vertex J)
+    (e : edge u v)
+    : compose (C := total_category sigma_disp_cat) (a := _ ,, _) (_ ,, cone_sigma_disp_cat u) (dmor d e) = (_ ,, cone_sigma_disp_cat v).
+  Proof.
+    apply (pr2 (mapcone E_to_sigma_total_functor _ (make_cone _ (pr221 HE)))).
+  Qed.
+
+  Definition is_lim_cone_sigma_disp_cat
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Sigma.v:183]: I would suggest to split it up into multiple statements.

**Review by nmvdw — COMMENTED** [review]
I partially reviewed it (13/44 files), and I will continue later.

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v [hunk 22]
```diff
@@ -0,0 +1,341 @@
...
+  Definition disp_over_unit_data : disp_cat_data unit_category.
+  Proof.
+    use tpair.
+    - use tpair.
+      + intro. apply (ob C).
+      + simpl. intros x y c c' e. apply (C ⟦c, c'⟧).
+    - use tpair.
+      + simpl. intros. apply identity.
+      + intros ? ? ? ? ? a b c f g.
+        apply (compose (C:=C) f g ).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:46]: Does `f \cdot g` work here?

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v [hunk 23]
```diff
@@ -0,0 +1,341 @@
...
+      apply (eqtohomot (transportf_const _ _)).
+    - etrans. apply assoc.
+      apply pathsinv0. unfold mor_disp. cbn.
+      apply (eqtohomot (transportf_const _ _)).
+    - apply homset_property.
+  Qed.
+
+  Definition disp_over_unit : disp_cat _ := _ ,, disp_over_unit_axioms.
+
+  Lemma is_univalent_disp_disp_over_unit
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:64]: It might be nicer to split this lemma up into multiple identifiers. In addition, `Proposition` would be more suitable than `Lemma` here

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v [hunk 24]
```diff
@@ -0,0 +1,341 @@
...
+  induction C as [C Hhomsets].
+  induction C as [Cdata Hisprecategory].
+  exact (maponpaths (λ x, (pr1 Cdata) ,, x) (pathsdirprod (idpath _) (idpath _))).
+Qed.
+
+Section cartesian_product_pb.
+  Variable C C' : category.
+
+  (* TODO: use a better name here (this one is baffling out of context) *)
+  Definition disp_cartesian : disp_cat C
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:107]: How about:
- `cartesian_prod_disp_cat`
- `cat_prod_disp_cat`

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v [hunk 25]
```diff
@@ -0,0 +1,341 @@
...
+    unfold comp_disp.
+    simpl.
+    unfold transportb.
+    rewrite transportf_set.
+    - apply idpath.
+    - apply isasetaprop,
+        isasetunit.
+  Qed.
+
+  Definition cartesian : category := total_category disp_cartesian.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:127]: I dislike the name `cartesian` here. Since cartesian is a word that is used for everything, it doesn't mean anything.

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v [hunk 26]
```diff
@@ -0,0 +1,341 @@
...
+
+  Lemma cartesian_is_binproduct
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:129]: What is the purpose of this lemma? Is it to verify that your construction gives what it should give or is its purpose to be used? If you want to use it, it might be better to use an adjoint equivalence.

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v [hunk 27]
```diff
@@ -0,0 +1,341 @@
...
+    : cartesian = category_binproduct C C'.
+  Proof.
+    apply subtypePairEquality';
+      [ | apply isaprop_has_homsets].
+    apply subtypePairEquality';
+      [ | apply isaprop_is_precategory, has_homsets_precategory_binproduct; apply homset_property].
+    use total2_paths_f.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:136]: Does `apply maponpaths` work here? I think it might.

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v [hunk 28]
```diff
@@ -0,0 +1,341 @@
...
+    - apply idpath.
+    - use total2_paths_f;
+        [| rewrite transportf_const];
+        repeat (apply funextsec; intro);
+        (use total2_paths_f; [apply idpath | ]);
+        cbn;
+        exact (transportf_set _ _ _ (isasetaprop (isasetunit _ _))).
+  Qed.
+
+  Definition pr2_functor
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:146]: What is your motivation for this construction? Is it just 'yet another way of defining the product'? Or are you actually using this construction somewhere?

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v [hunk 29]
```diff
@@ -0,0 +1,341 @@
...
+      : disp_cartesian (lim L)
+      := lim L'.
+
+    Definition cartesian_limit_cone
+      (j : vertex J)
+      : cartesian_limit_tip -->[ limOut L j] pr2 (dob d j)
+      := limOut L' j.
+
+    Definition cartesian_limit_forms_cone
+      : forms_cone d (λ j, (limOut L j,, cartesian_limit_cone j) : cartesian ⟦_ ,, _, _ ,, _⟧).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:178]: Might a `make_mor` for `cartesian` be useful?

Comment (nmvdw) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:178]: (and a `make_ob`)

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v [hunk 30]
```diff
@@ -0,0 +1,341 @@
...
+
+    Definition creates_limits_disp_cartesian
+      : creates_limit disp_cartesian d L.
+    Proof.
+      use make_creates_limit.
+      - exact cartesian_limit_tip.
+      - exact cartesian_limit_cone.
+      - exact cartesian_limit_forms_cone.
+      - intros tip' cone'.
+        use ((
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:239]: Can you use indenting in such a way that the structure of the pair becomes visible from the indenting? I.e., one can use different indenting for `(A x B) x C` and `A x (B x C)`

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v [hunk 31]
```diff
@@ -0,0 +1,341 @@
...
+
+  End Limits.
+
+End cartesian_product_pb.
+
+Section arrow.
+
+  Variable C : category.
+
+  Definition disp_arrow_data : disp_cat_data (cartesian C C).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:257]: This construction contains parts that can be made opaque.

**Review by nmvdw — COMMENTED** [review]
I reviewed all files related to category theory.

File: UniMath/AlgebraicTheories/LambdaCalculus.v [hunk 32]
```diff
@@ -0,0 +1,437 @@
...
+    + apply idpath.
+  - intros ? ? ? ? ? H.
+    rewrite subst_subst.
+    apply maponpaths.
+    apply funextfun.
+    intro.
+    apply H.
+Qed.
+
+(** ** 4.3. A tactic for reducing λ-terms [reduce_lambda] *)
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/LambdaCalculus.v:423]: Did you try this one out? How well does it work?

File: UniMath/AlgebraicTheories/LambdaCalculus.v [hunk 33]
```diff
@@ -0,0 +1,437 @@
+(**************************************************************************************************
+
+  The λ-calculus
+
+  Defines what (a model for) the λ-calculus with β- and η-equality looks like and provides related
```
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/AlgebraicTheories/LambdaCalculus.v:5]: I would say a bit more about what you are doing, because there are some interesting aspects here. If I read `lambda_calculus_data` and `lambda_calculus_ind`, then I see an inductive type together with an induction principle, and actually, the whole file is about **specifying** the constructors and induction principle of this type. There are several questions that one might ask when seeing this definition, for example, could you construct an inhabitant of `lambda_calculus` by using inductive types in Coq (this is independent of the usage of inductives in UniMath).

File: UniMath/AlgebraicTheories/LambdaTheories.v [hunk 34]
```diff
@@ -0,0 +1,168 @@
+(**************************************************************************************************
+
+  λ-theories
+
+  Defines what a λ-theory is and gives accessors, constructors and defines what it means for a
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/LambdaTheories.v:5]: What is a lambda-theory supposed to represent?

Comment (nmvdw) [reply UniMath/AlgebraicTheories/LambdaTheories.v:5]: You could say something like: a lambda theory is an algebraic theory with an abstraction and an application operation.

File: UniMath/AlgebraicTheories/LambdaTheoryCategory.v [hunk 35]
```diff
@@ -0,0 +1,310 @@
...
+  : disp_cat algebraic_theory_cat.
+Proof.
+  use disp_struct.
+  - exact (λ (T : algebraic_theory),
+      (∏ n, (T n : hSet) → (T (S n) : hSet)) ×
+      (∏ n, (T (S n) : hSet) → (T n : hSet))).
+  - exact (λ _ _ appabs appabs' (F : algebraic_theory_morphism _ _),
+      (∏ n t, F _ ((pr1 appabs) n t) = (pr1 appabs') n (F _ t)) ×
+      (∏ n t, F _ ((pr2 appabs) n t) = (pr2 appabs') n (F _ t))).
+  - intros.
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/LambdaTheoryCategory.v:57]: Here `abstract` is appropriate

File: UniMath/AlgebraicTheories/LambdaTheoryCategory.v [hunk 36]
```diff
@@ -0,0 +1,310 @@
...
+    exact (idpath _).
+  Qed.
+  Goal ∏ (L L' : lambda_theory), lambda_theory_cat⟦L, L'⟧ = lambda_theory_morphism L L'.
+    exact (λ _ _, idpath _).
+  Qed.
+End Test.
+
+(** * 2. A characterization of iso's of λ-theories *)
+
+Definition make_lambda_theory_z_iso
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/LambdaTheoryCategory.v:102]: I would suggest to split up this definition (and to use sections)

File: UniMath/AlgebraicTheories/LambdaTheoryCategory.v [hunk 37]
```diff
@@ -0,0 +1,310 @@
...
+
+  Context (D := lambda_theory_data_disp_cat).
+  Context {J : graph}.
+  Context (d : diagram J (total_category D)).
+  Context (L := limits_algebraic_theory_cat J (mapdiagram (pr1_category _) d)).
+
+  Definition tip_lambda_theory_data_disp_cat
+    : D (lim L).
+  Proof.
+    split;
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/LambdaTheoryCategory.v:217]: This proof is not very readable to me, because it starts with a heavily chained tactic.

File: UniMath/AlgebraicTheories/LambdaTheoryCategory.v [hunk 38]
```diff
@@ -0,0 +1,310 @@
...
+    : tip_lambda_theory_data_disp_cat -->[limOut L j] pr2 (dob d j).
+  Proof.
+    easy.
+  Qed.
+
+  Lemma is_limit_lambda_theory_data_disp_cat
+    (d' : total_category D)
+    (cone_out : ∏ u, d' --> (dob d u))
+    (is_cone : ∏ u v e, cone_out u · (dmor d e) = cone_out v)
+    : pr2 d' -->[limArrow L _
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/LambdaTheoryCategory.v:238]: Would an intermediate definition be useful here? Possibly for this `limArrow`

**Review by nmvdw — COMMENTED** [review]
i am at 37/44.

In general, it looks quite good.

File: UniMath/AlgebraicTheories/LambdaAlgebraMonoid.v [hunk 39]
```diff
@@ -0,0 +1,253 @@
...
+    rewrite (extend_tuple_last _ _ _ (idpath 1 : stntonat _ (make_stn 2 1 (idpath true)) = 1))
+  ).
+
+  Ltac extend_tuple_3 := (
+    rewrite (extend_tuple_i _ _ _ _ (idpath true : make_stn 3 0 (idpath true) < 2)) +
+    rewrite (extend_tuple_i _ _ _ _ (idpath true : make_stn 3 1 (idpath true) < 2)) +
+    rewrite (extend_tuple_last _ _ _ (idpath 2 : stntonat _ (make_stn 3 2 (idpath true)) = 2))
+  ).
+
+  Definition algebra_monoid : monoid.
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/LambdaAlgebraMonoid.v:93]: This definition should be split up

File: UniMath/AlgebraicTheories/LambdaAlgebraMonoid.v [hunk 40]
```diff
@@ -0,0 +1,253 @@
...
+          cbn -[weqvecfun action];
+          do 15 reduce_lambda;
+          do 6 extend_tuple_3;
+          do 2 rewrite move_action_through_vector_2;
+          do 2 rewrite <- algebra_is_assoc;
+          cbn -[weqvecfun v];
+          do 12 reduce_lambda;
+          do 6 extend_tuple_3;
+          cbn -[v];
+          do 42 reduce_lambda
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/LambdaAlgebraMonoid.v:150]: How about using `repeat` instead of adding high numbers?

File: UniMath/AlgebraicTheories/LambdaAlgebraMonoid.v [hunk 41]
```diff
@@ -0,0 +1,253 @@
...
+            cbn -[weqvecfun action];
+            do 9 reduce_lambda;
+            do 3 extend_tuple_3;
+            cbn -[action v];
+            do 7 reduce_lambda;
+            exact (!pr2 a)
+          ) ).
+  Defined.
+
+  Definition monoid_category (m : monoid) : category.
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/LambdaAlgebraMonoid.v:204]: This construction might fit better in a separate file.

File: UniMath/AlgebraicTheories/LambdaAlgebraMonoid.v [hunk 42]
```diff
@@ -0,0 +1,253 @@
...
+      ).
+    - abstract (
+        do 2 intro;
+        apply setproperty
+      ).
+  Defined.
+
+  Definition monoid_presheaf_cat (m : monoid) := PreShv (monoid_category m).
+
+  Definition monoid_presheaf (m : monoid) : monoid_presheaf_cat m.
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/LambdaAlgebraMonoid.v:228]: This definition can be split up

File: UniMath/AlgebraicTheories/PresheafCategory.v [hunk 43]
```diff
@@ -0,0 +1,708 @@
...
+Definition presheaf_data_cat
+  : category
+  := total_category presheaf_data_disp_cat.
+
+Definition presheaf_full_disp_cat
+  : disp_cat presheaf_data_cat
+  := disp_full_sub presheaf_data_cat
+    (λ X, is_presheaf (make_presheaf_data (pr21 X) (pr2 X))).
+
+Definition presheaf_full_cat
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/PresheafCategory.v:105]: What does `full` here refer to?

File: UniMath/AlgebraicTheories/PresheafCategory.v [hunk 44]
```diff
@@ -0,0 +1,708 @@
...
+  apply setproperty.
+Qed.
+
+Definition presheaf_cat
+  (T : algebraic_theory)
+  : category
+  := fiber_category presheaf_disp_cat T.
+
+Section Test.
+  Goal ∏ T, ob (presheaf_cat T) = presheaf T.
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/PresheafCategory.v:137]: I have seen these multiple times. There is an alternative route here: one could define `presheaf T` to be `ob (presheaf_cat T)`. This way, these tests are guaranteed to hold. We used such an approach for pseudofunctors and double categories.

What are your reasons for choosing this approach?

File: UniMath/AlgebraicTheories/PresheafCategory.v [hunk 45]
```diff
@@ -0,0 +1,708 @@
...
+  Goal ∏ (T : algebraic_theory) (P P' : presheaf T),
+    presheaf_cat T ⟦P, P'⟧ = presheaf_morphism P P'.
+    intros.
+    apply idpath.
+  Qed.
+End Test.
+
+Lemma presheaf_mor_comp
+  {T : algebraic_theory}
+  {P P' P'' : presheaf_cat T}
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/PresheafCategory.v:149]: Why not use `presheaf` here?

File: UniMath/AlgebraicTheories/PresheafCategory.v [hunk 46]
```diff
@@ -0,0 +1,708 @@
...
+End fibration.
+
+(** * 5. Limits *)
+
+Definition creates_limits_presheaf_base_disp
+  : creates_limits (disp_cartesian algebraic_theory_cat base_functor_category).
+Proof.
+  intros J d L.
+  use creates_limits_disp_cartesian.
+  - apply limits_base_functor_category.
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/PresheafCategory.v:372]: This `-` can be removed

File: UniMath/AlgebraicTheories/PresheafCategory.v [hunk 47]
```diff
@@ -0,0 +1,708 @@
...
+    }
+    apply funextsec.
+    intro i.
+    exact (pr2 (cone_out i) m n f g).
+  Qed.
+
+End DataLimits.
+
+Definition creates_limits_presheaf_data_disp_cat
+  {J}
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/PresheafCategory.v:456]: I would suggest to add the type of `J`

File: UniMath/AlgebraicTheories/PresheafCategory.v [hunk 48]
```diff
@@ -0,0 +1,708 @@
...
+  - apply creates_limits_presheaf_disp_cat.
+  - apply presheaf_cleaving.
+Defined.
+
+(** * 6. Terminal object *)
+
+Definition terminal_presheaf_cat
+  (T : algebraic_theory)
+  : Terminal (presheaf_cat T).
+Proof.
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/PresheafCategory.v:538]: I think it would be better to split this definition

File: UniMath/AlgebraicTheories/PresheafCategory.v [hunk 49]
```diff
@@ -0,0 +1,708 @@
...
+        intro;
+        apply funextfun;
+        intro;
+        apply iscontrunit
+      ).
+Defined.
+
+(** * 7. Binary products *)
+
+Definition bin_products_presheaf_cat
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/PresheafCategory.v:570]: Same here. This one can be split up

File: UniMath/AlgebraicTheories/Examples/Plus1Presheaf.v [hunk 50]
```diff
@@ -0,0 +1,74 @@
...
+Local Open Scope algebraic_theories.
+
+(** * 1. The definition of the plus 1 presheaf *)
+
+Definition plus_1_presheaf'_data
+  {T : algebraic_theory}
+  (P : presheaf T)
+  : presheaf'_data T.
+Proof.
+  - use make_presheaf'_data.
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/Examples/Plus1Presheaf.v:29]: The `-` is not needed

File: UniMath/AlgebraicTheories/Examples/Plus1Presheaf.v [hunk 51]
```diff
@@ -0,0 +1,74 @@
...
+      * refine (t i' • (λ j, pr (stnweq (inl j)))).
+      * exact (pr (stnweq (inr i'))).
+Defined.
+
+Lemma plus_1_is_presheaf'
+  {T : algebraic_theory}
+  (P : presheaf T)
+  : is_presheaf' (plus_1_presheaf'_data P).
+Proof.
+  - use make_is_presheaf'.
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/Examples/Plus1Presheaf.v:44]: The `-` is not needed

File: UniMath/AlgebraicTheories/RepresentationTheorem.v [hunk 52]
```diff
@@ -0,0 +1,631 @@
...
+Local Open Scope cat.
+Local Open Scope mor_disp.
+
+(** * 1. A proof that the object (theory_presheaf) can be exponentiated *)
+
+Section RepresentationTheorem.
+
+  Context (L : lambda_theory).
+
+  Local Definition pow
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/RepresentationTheorem.v:64]: Here `EndomorphismTheory.power` (where the qualifier has to be added due to it being a local definition. It would be good to separate this construction, and make it generally accessible.

File: UniMath/AlgebraicTheories/RepresentationTheorem.v [hunk 53]
```diff
@@ -0,0 +1,631 @@
...
+    (n : nat)
+    : Product (stn n) (presheaf_cat L) (λ _, theory_presheaf L)
+    := EndomorphismTheory.power (terminal_presheaf_cat _) (bin_products_presheaf_cat _) _ _.
+
+  Local Definition PO
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/RepresentationTheorem.v:69]: What does `PO` stand for?

File: UniMath/AlgebraicTheories/RepresentationTheorem.v [hunk 54]
```diff
@@ -0,0 +1,631 @@
...
+    (n : nat)
+    : presheaf L
+    := ProductObject _ _ (pow n).
+
+  Local Definition pow'
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/RepresentationTheorem.v:74]: How do `pow` and `pow'` compare?

File: UniMath/AlgebraicTheories/RepresentationTheorem.v [hunk 55]
```diff
@@ -0,0 +1,631 @@
...
+    Definition presheaf_exponent_morphism_data
+      (P : presheaf L)
+      (n : nat)
+      (t : (BPO (theory_presheaf L) (plus_1_presheaf P) n : hSet))
+      : (P n : hSet).
+    Proof.
+      refine (action (P := P) (pr2 t) _).
+      intro i.
+      induction (invmap stnweq i) as [i' | i'].
+      * exact (pr i').
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/RepresentationTheorem.v:115]: I would use `-`, then `+` and then `*`

File: UniMath/AlgebraicTheories/RepresentationTheorem.v [hunk 56]
```diff
@@ -0,0 +1,631 @@
...
+        refine (algebraic_theory_comp_projects_component _ _ _ _ _ @ _).
+        refine (maponpaths (λ x, _ x • _) (homotinvweqweq stnweq _) @ _).
+        refine (maponpaths (λ x, x • _) (algebraic_theory_comp_projects_component _ _ _ _ _) @ _).
+        refine (algebraic_theory_comp_projects_component _ _ _ _ _ @ _).
+        exact (maponpaths _ (homotinvweqweq stnweq _)).
+    Qed.
+
+  End Exponentiable.
+
+  (** * 2. A construction of its λ-theory *)
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/RepresentationTheorem.v:353]: What does `its` refer to?

File: UniMath/AlgebraicTheories/RepresentationTheorem.v [hunk 57]
```diff
@@ -0,0 +1,631 @@
...
+      intro t.
+      refine (algebraic_theory_comp_is_assoc _ _ _ _ _ _ _ @ !_).
+      apply (maponpaths (comp f)).
+      apply funextfun.
+      intro i.
+      exact (maponpaths (λ x, x t) (!presheaf_mor_comp _ _ _) @
+          maponpaths (λ x, pr11 x l t) (ProductPrCommutes _ _ _ (pow m) _ _ i)).
+    Qed.
+
+    Lemma aux2
```
Comment (nmvdw) [inline UniMath/AlgebraicTheories/RepresentationTheorem.v:506]: `Local` might be good here

**Review by nmvdw — APPROVED** [review]
Thanks for this contribution.

In general, the code looks good. I mainly have minor comments.

File: UniMath/CategoryTheory/DisplayedCats/Limits.v [hunk 58]
```diff
@@ -2,71 +2,420 @@
...
+    simpl.
+    rewrite assoc_disp.
+    apply transportf_transpose_right.
+    apply transportf_transpose_right.
+    do 4 refine (transport_f_f _ _ _ _ @ _).
+    apply transportf_set.
+    apply homset_property.
+  Qed.
+
+  Section fiber_is_limit.
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Limits.v:302]: I believe there is no standard, but some statistics:
 - CamelCase: 1996 hits
 - snake_case: 525 hits
 - Snamel_Case: 320
So let's make CamelCase the standard.

File: UniMath/AlgebraicTheories/AlgebraFibration.v [hunk 59]
```diff
@@ -1,48 +1,42 @@
...
-Proof.
-  unfold comp_disp.
-  simpl.
-  unfold transportb.
-  rewrite transportf_set.
-  - apply idpath.
-  - apply isasetaprop,
-      isasetunit.
-Qed.
+(** * 1. A cleaving *)
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/AlgebraFibration.v:33]: Why? Is a cleaving unique? Or do you mean that this section introduces "the cleaving" of this file?

File: UniMath/AlgebraicTheories/AlgebraMorphisms.v [hunk 60]
```diff
@@ -0,0 +1,58 @@
...
+  {A A' : algebra_data T}
+  (F : A → A')
+  : UU
+  := ∏ n f (a : stn n → A), F (action f a) = action f (λ i, F (a i)).
+
+Definition algebra_morphism
+  {T : algebraic_theory_data}
+  (A A' : algebra_data T)
+  : UU
+  := ∑ (F : A → A') (H : preserves_action F), unit.
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/AlgebraMorphisms.v:31]: I want my types to be compatible with my categories. Almost all of these categories are constructed as a tower of displayed categories, with a full displayed subcategory at the top, hence the `unit`.

File: UniMath/AlgebraicTheories/AlgebraicTheories2.v [hunk 61]
```diff
@@ -1,9 +1,21 @@
-(* Defines a type for passing data to make_algebraic_theory' in AlgebraicTheories.v. *)
+(**************************************************************************************************
 
+  Algebraic Theories 2
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/AlgebraicTheories2.v:3]: That is true, although I find it hard to come up with a better name. What would you propose? something like `AlternateDataForConstructingAlgebraicTheories`?

File: UniMath/AlgebraicTheories/Examples/EndomorphismTheory.v [hunk 62]
```diff
@@ -1,32 +1,66 @@
...
 Section EndomorphismAlgebraicTheory.
 
   Context {C : category}.
-  Context (C_finite_products : finite_products C).
+  Context (C_terminal : Terminal C).
+  Context (C_bin_products : BinProducts C).
+
   Variable (X : C).
 
+  Local Definition power
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/Examples/EndomorphismTheory.v:54]: In this case, it is just a short way of writing `bin_product_power C X C_terminal C_bin_products n` ("the nth power of the object X, constructed as a binary product power"), to avoid having to repeat it so many times.
Outside of this scope it loses much of its usefulness, I believe, because it uses some scope variables/context that one would have to supply when outside of this scope.

[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/Examples/EndomorphismTheory.v:54]: What kind of adjective were you thinking about?

File: UniMath/AlgebraicTheories/Examples/EndomorphismTheory.v [hunk 63]
```diff
@@ -63,9 +97,142 @@ Section EndomorphismAlgebraicTheory.
...
+    := BinProductPr1Commutes _ _ _ (C_bin_products X (power n)).
+
+  Local Definition bp_commutes_2 (n : nat)
+    := BinProductPr2Commutes _ _ _ (C_bin_products X (power n)).
+
+  Context (E : is_exponentiable C_bin_products X).
+  Context (abs : C⟦pr1 E X, X⟧).
+  Context (app : C⟦X, pr1 E X⟧).
+
+  Local Definition hom_weq (n: nat)
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/Examples/EndomorphismTheory.v:115]: Ooooh, didn't know that. That is useful.

File: UniMath/AlgebraicTheories/Examples/FreeTheory.v [hunk 64]
```diff
@@ -0,0 +1,176 @@
+(**************************************************************************************************
+
+  The free theory
+
+  This file defines the free functor from sets to algebraic theories, and shows that it is left
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/Examples/FreeTheory.v:5]: Yup (is there a better way to describe that than I did in this file?)

This mainly is part of my exploration (of the types involved in this thesis), finding (sometimes trivial) examples for these definitions. I don't think there is a particular "meaning", other than "The algebraic theory with only its variables, and some constants, provided by the set"

File: UniMath/AlgebraicTheories/Examples/ProjectionsTheory.v [hunk 65]
```diff
@@ -1,16 +1,25 @@
-(*
-  Define the initial algebraic theory given by T(n) = {0, ..., n-1} and pr i = i and show that every
-  set can be an algebra for this theory.
-*)
+(**************************************************************************************************
 
+  The projections theory
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/Examples/ProjectionsTheory.v:3]: I called it the projections theory, because it only elements are the variables, which Hyland calls "projections".

File: UniMath/AlgebraicTheories/LambdaAlgebraMonoid.v (hunk 40 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/LambdaAlgebraMonoid.v:150]: This is discouraged in https://github.com/UniMath/UniMath/blob/master/UniMath/README.md#unimath-coding-style, so I try to avoid using `repeat` (except in some specific cases)

File: UniMath/AlgebraicTheories/LambdaTheories.v (hunk 34 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/LambdaTheories.v:5]: Right, I wil add that indeed. It is supposed to represent a model for the lambda calculus, with variables, substitution, application and abstraction.

File: UniMath/AlgebraicTheories/LambdaTheoryCategory.v (hunk 38 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/LambdaTheoryCategory.v:238]: I think it is fine either way, with or without intermediate definition. Would you like an intermediate definition here?

File: UniMath/AlgebraicTheories/RepresentationTheorem.v (hunk 53 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/RepresentationTheorem.v:69]: "ProductObject of `pow n`". In this file, there is a lot of switching back and forth between `ob presheaf_cat` and `presheaf`. In this case, before I introduced this definition, my goal would be `... (pow n) ...`, but in order to actually work with this in my code, I needed to write `ProductObject _ _ (pow n) : presheaf L` or `(pow n : presheaf_cat L) : presheaf L` in many cases. To avoid and shorten this (also considering the maximum line length), I abbreviated it to `PO` (and the same for `PO'` and `pow'`)

File: UniMath/AlgebraicTheories/RepresentationTheorem.v (hunk 54 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/RepresentationTheorem.v:74]: One is the power using the normal product, the other one is the power using the binary product. I need them both. For the endomorphism lambda-theory I need, at some point that `(theory_presheaf _) x pow n = pow (S n)`. For the representation theorem, I need to be able to give an element of `pow n` (which is hard, because that would be of the form `(_ ,, (_ ,, (_ ,, ...)))`. Therefore, I provide an element of `pow' n` and transport it via their isomorphism.

File: UniMath/AlgebraicTheories/RepresentationTheorem.v (hunk 56 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/RepresentationTheorem.v:353]: It refers to `  1. A proof that the object (theory_presheaf) can be exponentiated [theory_presheaf_exponentiable]` (in the table of contents, this makes sense). Would you like me to make sure that the ToC entries make sense on their own?

File: UniMath/AlgebraicTheories/Tuples.v [hunk 66]
```diff
@@ -0,0 +1,141 @@
+(**************************************************************************************************
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/Tuples.v:1]: Yes, although I was hesitant to add it there, because I am still not sure of the usefulness of this file. Its main purpose is to extend a function `stn n -> A` to a function `stn (S n) -> A`, but the way it is currently done feels cumbersome and not worthy of the UniMath library, in some sense?

File: UniMath/AlgebraicTheories/Tuples.v [hunk 67]
```diff
@@ -0,0 +1,141 @@
...
+  now induction (invweq (weqdnicoprod _ lastelement) i).
+Qed.
+
+Lemma extend_tuple_i
+  {T : UU}
+  {n : nat}
+  (f : stn n → T)
+  (last : T)
+  (i : nat)
+  (Hi1 : i < S n)
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/Tuples.v:73]: True, it follows. In the wild, one would encounter `(i ,, Hi1)` as a pair of type `stn (S n)`, and this lemma would be to rewrite `extend_tuple f last (i ,, Hi1)` to `f ...` if we can show that `i` is small enough (`Hi2`)

File: UniMath/CategoryTheory/DisplayedCats/Examples.v (hunk 11 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Examples.v:567]: I moveed it to `Cartesian.v`, because I added some constructions about the category `(disp_)cartesian`, and thought it would be better to give them (and related constructions) their own file.

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v (hunk 22 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:46]: I merely moved this part here from `Examples.v`. Would you still like me to update and polish the parts I did not touch?

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v (hunk 23 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:64]: What is the difference between `Proposition` and `Lemma`?

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v (hunk 26 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:129]: This might be a bit of a hack. Its purpose is to rewrite `is_univalent (cartesian _ _)` to `is_univalent (category_binproduct C C')`, to then be able to use `is_univalent_category_binproduct`.

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v (hunk 28 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:146]: You mean for the functor? That one is used in this very same file, when defining limits.

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v (hunk 30 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:239]: Would you want that? Because for me, it is relevant that `A`, `B` and `C` are present, but the exact parenthesization is less relevant to me.

File: UniMath/CategoryTheory/DisplayedCats/Fiber.v (hunk 13 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Fiber.v:174]: Because then I would have to change this to
```
exact (λ _ _ x, (identity c) ,, x).
```
whereas I think it is pretty neat that `tpair _ y` is a function that turns `x` into a pair`y ,, x`.

File: UniMath/CategoryTheory/DisplayedCats/Limits.v [hunk 68]
```diff
@@ -2,71 +2,420 @@
...
-Require Import UniMath.CategoryTheory.DisplayedCats.Fibrations.
 
-Local Open Scope type_scope.
-Local Open Scope mor_disp_scope.
+Local Open Scope cat.
+Local Open Scope mor_disp.
 
 Section Creates_Limits.
 
 (* TODO: consider implicitness of argument *)
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Limits.v:24]: I have no idea. The comment was already there when I got here. If it means what I think it means, I guess we could make a couple more arguments implicit (`D` and maybe `F`).

File: UniMath/CategoryTheory/DisplayedCats/Limits.v [hunk 69]
```diff
@@ -2,71 +2,420 @@
...
+
+Definition make_creates_limit_unique
+  {C : category}
+  {D : disp_cat C}
+  {J : graph}
+  {F : diagram J (total_category D)}
+  {L : LimCone (mapdiagram (pr1_category D) F)}
+  (CC : creates_limit D F L)
+  (Hunique : ∏
+    (d : D (pr11 L))
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Limits.v:72]: But what would you then do with `delta` and `H`?

File: UniMath/CategoryTheory/DisplayedCats/Limits.v [hunk 70]
```diff
@@ -2,71 +2,420 @@
...
+      | apply impred_isaprop;
+        intro;
+        apply (homset_property (total_category _)) ]
+    ).
+Defined.
+
+Definition creates_limit_unique_disp_full_sub
+  {C : category}
+  {P : C → UU}
+  (D := disp_full_sub C P)
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Limits.v:200]: You mean you want shorthands for `total_category (disp_full_sub C P)` and `pr1_category (disp_full_sub C P)`?

File: UniMath/CategoryTheory/limits/binproducts.v (hunk 15 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/limits/binproducts.v:1499]: That is smart!

File: UniMath/Combinatorics/StandardFiniteSets.v (hunk 7 above)
Comment (arnoudvanderleer) [reply UniMath/Combinatorics/StandardFiniteSets.v:38]: What do you mean exactly? `pr1 i` and `pr1 i'` are of type `nat`, so there is no data there, right?

Comment (nmvdw) [reply UniMath/Combinatorics/StandardFiniteSets.v:38]: Oh, I misread the. A `Qed` is fine here.

File: UniMath/CategoryTheory/DisplayedCats/Examples.v (hunk 11 above)
Comment (nmvdw) [reply UniMath/CategoryTheory/DisplayedCats/Examples.v:567]: Makes sense.

File: UniMath/CategoryTheory/DisplayedCats/Limits.v (hunk 68 above)
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/CategoryTheory/DisplayedCats/Limits.v:24]: Based on your experience with the code, which arguments would you make implicit?

File: UniMath/CategoryTheory/DisplayedCats/Limits.v (hunk 69 above)
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/CategoryTheory/DisplayedCats/Limits.v:72]: Those can go on their own line. I like putting the `(d : D (pr11 L))` next to the `∏` so that it is very visible these arguments belong to the `∏` and are not arguments of the function being defined.

File: UniMath/CategoryTheory/DisplayedCats/Limits.v (hunk 70 above)
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/CategoryTheory/DisplayedCats/Limits.v:200]: I think those are already there? Or not?

File: UniMath/CategoryTheory/DisplayedCats/Limits.v (hunk 58 above)
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/CategoryTheory/DisplayedCats/Limits.v:302]: Sure. I think that is what most people use

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v (hunk 22 above)
Comment (nmvdw) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:46]: From the diffs of Git, I could not see whether you wrote the code or whether you moved it, so I assumed that you wrote it.

if you want to polish it, that is fine, but that is not necessary.

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v (hunk 23 above)
Comment (nmvdw) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:64]: For Coq, they have no difference. The only difference is in their meaning: a lemma is meant as a helper to prove some theorem, whereas a proposition is more of an independent result

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v (hunk 28 above)
Comment (nmvdw) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:146]: I actually meant the construction of the product in this particular way, so I meant all constructions in this file.

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v (hunk 30 above)
Comment (nmvdw) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:239]: True. I personally tend to do that, because it indicates more clearly what the type is, but it is a very minor point.

File: UniMath/AlgebraicTheories/AlgebraicTheories2.v (hunk 61 above)
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/AlgebraicTheories/AlgebraicTheories2.v:3]: Could you describe in a couple of sentences:
- What is the purposes of this file
- Why is it not in the same file as AlgebraicTheories

File: UniMath/AlgebraicTheories/Examples/EndomorphismTheory.v (hunk 62 above)
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/AlgebraicTheories/Examples/EndomorphismTheory.v:54]: > In this case, it is just a short way of writing `bin_product_power C X C_terminal C_bin_products n` ("the nth power of the object X, constructed as a binary product power"), to avoid having to repeat it so many times.
> Outside of this scope it loses much of its usefulness, I believe, because it uses some scope variables/context that one would have to supply when outside of this scope.

How about a power construction for a category with a terminal object and binary products? Something like that could be reusable.

> What kind of adjective were you thinking about?

How about something like `cat_binproduct_power`?

File: UniMath/AlgebraicTheories/Examples/FreeTheory.v (hunk 64 above)
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/AlgebraicTheories/Examples/FreeTheory.v:5]: If I am right, an algebraic theory represents operations and laws. As such, one reason to be interests in them, is their models. For example, one could define an algebraic theory of groups, and the models of that theory are groups.

One way to explain the meaning of an algebraic theory is by describing what its models look like.

File: UniMath/AlgebraicTheories/AlgebraFibration.v (hunk 59 above)
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/AlgebraicTheories/AlgebraFibration.v:33]: If the category is univalent, then cleavings indeed are unique.

However, I meant 'The cleaving' as in 'The cleaving defined in this file'

File: UniMath/AlgebraicTheories/AlgebraMorphisms.v (hunk 60 above)
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/AlgebraicTheories/AlgebraMorphisms.v:31]: Makes sense. I wrote another comment where I described an alternative approach, namely where you defined algebraic theories/their morphisms as objects/morphisms in the category of algebraic theories respectively. This should give the same definitions, but with some less duplication.

This is something worth pondering about, although it is not necessary for this PR.

File: UniMath/AlgebraicTheories/Examples/ProjectionsTheory.v (hunk 65 above)
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/AlgebraicTheories/Examples/ProjectionsTheory.v:3]: That would be good to mention in the header of the file. Does Hyland have a particular reason to call variables projections? Because variables are interpreted as compositions of projections?

File: UniMath/AlgebraicTheories/Tuples.v (hunk 66 above)
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/AlgebraicTheories/Tuples.v:1]: I would still put it in Combinatorics. It makes more sense at that place, and if one finds a better construction, then one can modify that file accordingly.

File: UniMath/AlgebraicTheories/Tuples.v (hunk 67 above)
[the remark this answers is not in the document]
Comment (nmvdw) [reply UniMath/AlgebraicTheories/Tuples.v:73]: Makes sense.

File: UniMath/AlgebraicTheories/LambdaTheoryCategory.v (hunk 38 above)
Comment (nmvdw) [reply UniMath/AlgebraicTheories/LambdaTheoryCategory.v:238]: I think it might make the code more readable.

File: UniMath/AlgebraicTheories/LambdaAlgebraMonoid.v (hunk 40 above)
Comment (nmvdw) [reply UniMath/AlgebraicTheories/LambdaAlgebraMonoid.v:150]: Sure.

File: UniMath/AlgebraicTheories/RepresentationTheorem.v (hunk 56 above)
Comment (nmvdw) [reply UniMath/AlgebraicTheories/RepresentationTheorem.v:353]: That might be nice, yes.

**Comment by rmatthes** [comment]
Could you please update the initial description of this PR before it will be merged? To what extent is Hyland's paper now represented? The representation theorem is there, not only work heading towards it.

File: UniMath/AlgebraicTheories/Examples/FreeTheory.v (hunk 3 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/Examples/FreeTheory.v:163]: You are probably right. My main objection would be that it is increasingly difficult to find appropriate names for fragments of such a definition. But I guess even then it is better than abstract blocks.

Comment (nmvdw) [reply UniMath/AlgebraicTheories/Examples/FreeTheory.v:163]: In this case, you constructing an equivalence, right?

You could use the following names:
- `free_functor_is_free_hom_weq`
- `free_functor_is_free_hom_inv`
- `free_functor_is_free_hom_inv_l` or `free_functor_is_free_hom_inv_1`
- `free_functor_is_free_hom_inv_r` or `free_functor_is_free_hom_inv_2`

These names aren't poetry, but they give some kind of idea what it is, and they are rather systematic.

File: UniMath/AlgebraicTheories/Examples/FreeTheory.v (hunk 64 above)
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/Examples/FreeTheory.v:5]: That is fair.

File: UniMath/AlgebraicTheories/Examples/FreeTheory.v [hunk 71]
```diff
@@ -0,0 +1,176 @@
...
+(** * 3. The adjunction *)
+
+Lemma lift_constant_eq
+  (T : algebraic_theory)
+  {n : nat}
+  (f f' : (T 0 : hSet))
+  (g : stn 0 → (T n : hSet))
+  (H : f = f')
+  : lift_constant n f = f' • g.
+Proof.
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/Examples/FreeTheory.v:124]: Not by a lot, but maybe a bit.

File: UniMath/AlgebraicTheories/AlgebraMorphisms.v (hunk 60 above)
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/AlgebraMorphisms.v:31]: Hm, I might consider doing that indeed.

File: UniMath/AlgebraicTheories/AlgebraicTheories2.v (hunk 61 above)
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/AlgebraicTheories2.v:3]: My definitions are based on Hyland's definitions. These are somewhat category theoretic, but usually that means that they have some redundancy. For defining the categories as displayed categories over, for example, a functor category, that works fine. However, for defining these objects themselves, it is usually nice to have a constructor that requires as little data and properties as possible. This file describes the (minimal) data (and gives data types to package this data together) for constructing an algebraic theory, which then can be fed to `make_algebraic_theory'` in `AlgebraicTheories` to construct an algebraic theory.

File: UniMath/AlgebraicTheories/Examples/EndomorphismTheory.v (hunk 62 above)
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/Examples/EndomorphismTheory.v:54]: What you are talking about is exactly `bin_product_power`. However, with all its arguments, it becomes too long and cumbersome, so I added an abbreviation here.

File: UniMath/AlgebraicTheories/LambdaAlgebraMonoid.v (hunk 41 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/LambdaAlgebraMonoid.v:204]: I am already working on a new branch (https://github.com/arnoudvanderleer/UniMath/tree/equivalence-lambda-algebras-theories) where I moved it to a separate file indeed. Is that okay for now?

File: UniMath/AlgebraicTheories/LambdaCalculus.v (hunk 32 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/LambdaCalculus.v:423]: It works great. I used it about 20 times (repeating it up to 42 times at once with `do 42 reduce_lambda`), and it saves me a bit of the headache that explicit substitution usually gives. The only disadvantage here is that rewriting requires a term to be unfolded and reduced (with `simpl` or `cbn`), but this does not seem to impact performance yet.

File: UniMath/AlgebraicTheories/LambdaTheoryCategory.v (hunk 37 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/LambdaTheoryCategory.v:217]: Would you prefer this then? I chained these tactics because it was possible, but also to condense the actually interesting parts of the proof (because there is some splitting and introducing going on, which is not very interesting).
```coq
    split.
    - intros n f.
      use tpair.
      + intro u.
        exact (pr12 (dob d u) _ (pr1 f u)).
      + abstract exact (λ u v e, pr12 (dmor d e) _ _ @ maponpaths _ (pr2 f _ _ _)).
    - intros n f.
      use tpair.
      + intro u.
        exact (pr22 (dob d u) _ (pr1 f u)).
      + abstract exact (λ u v e, pr22 (dmor d e) _ _ @ maponpaths _ (pr2 f _ _ _)).
```

File: UniMath/AlgebraicTheories/PresheafCategory.v (hunk 43 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/PresheafCategory.v:105]: This is a bit as with rings and modules (or fields and vector spaces): we have algebraic theories and algebras for algebraic theories.
This gives a kind of dependent sum of categories: Its objects are pairs of an algebraic theory, together with an algebra for the theory. The category of $T$-algebras arises then as a fiber of this "full" category.

File: UniMath/AlgebraicTheories/PresheafCategory.v (hunk 44 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/PresheafCategory.v:137]: Does it work well, in the case of pseudofunctors and double categories? Are there differences in performance, or in what coercions and conversions coq can do (automatically)?

Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/PresheafCategory.v:137]: And I did not do it for mainly historical reasons. I started by defining algebraic theories and presheaves, and only then worked on defining their categories.
One reason, though, is that I feel like categories in coq do not work very nice for, for example, coercions (I could not get coercions to work nicely (transitively) on the objects of my category), so I try to work as little with them as possible. However, it may very well be possible that this feeling is not justified in this case, and that defining these objects by their categories works very well.

File: UniMath/AlgebraicTheories/PresheafCategory.v (hunk 45 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/PresheafCategory.v:149]: I guess mainly because composition is defined on `presheaf_cat`.

Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/PresheafCategory.v:149]: This lemma is used a lot in `RepresentationTheorem`, and in that case we will have to typecast about half of the morphisms to `presheaf` or `presheaf_cat`, regardless of the one we choose here.

File: UniMath/AlgebraicTheories/Tuples.v (hunk 66 above)
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/Tuples.v:1]: Ah, I now see that we have `FiniteSequences`. I will merge `Tuples` and `FiniteSequences` in the future.

File: UniMath/CategoryTheory/DisplayedCats/Examples.v (hunk 10 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Examples.v:431]: I'm not sure what happened here. I restored it.

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v (hunk 27 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:136]: Yes, of course, that works!

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v (hunk 28 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:146]: Ah. The idea was that I wanted `algebra_cat T` to be a fiber category of some larger category `algebra_full_cat T` or something, that would be displayed over algebraic theories. Somewhere in that construction, I needed the product of `algebraic_theory_cat` and `HSET` as a displayed product over the `algebraic_theory_cat`. I saw this in the library and decided to use it.
Is there a better way?

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v (hunk 29 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:178]: That would be an alias for `_ ,, _`, right? Why would they be useful?

File: UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v (hunk 30 above)
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Cartesian.v:239]: In thise case, I will leave it as it is.

File: UniMath/CategoryTheory/DisplayedCats/Limits.v [hunk 72]
```diff
@@ -2,71 +2,420 @@
...
+  (F : diagram J (total_category D))
+  (L : LimCone (mapdiagram (pr1_category D) F)) : UU
 :=
-  ∑ (CC : iscontr
-      ( ∑ (d : D x)
-          (δ : ∏ j : vertex J, d -->[coneOut L j] (pr2 (dob F j))),
-          forms_cone(c:=(x,,d)) F (λ j, (coneOut L j ,, δ j))))
-  , isLimCone _ _ (make_cone _ (pr2 (pr2 (iscontrpr1 CC)))).
+  ∑ (CC :
+      ( ∑ (d : D (pr11 L))
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Limits.v:33]: There is no coercion, but I replaced `pr11` by `lim`.

File: UniMath/CategoryTheory/DisplayedCats/Limits.v (hunk 69 above)
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Limits.v:72]: I do not completely agree with you, but for now, I will what you asked.
Personally, I think the indentation should make it clear that they are not arguments. Putting `d` after the `∏` messes up its indentation relative to the other arguments.

File: UniMath/CategoryTheory/DisplayedCats/Limits.v (hunk 70 above)
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Limits.v:200]: I can only find an accessor for `total_category (disp_full_sub C P)`. And I don't really see the benefit of using that one in this specific case. Although it is useful to know it exists.

File: UniMath/CategoryTheory/DisplayedCats/Limits.v [hunk 73]
```diff
@@ -2,71 +2,420 @@
...
+        intro.
+        apply (homset_property (fiber_category _ _)).
+      - refine (base_paths _ _ (pr2 g (_ ,, _))).
+        use (!fiber_paths (!fu ((identity c · Δ) ,, (h ;; pr12 candidate)) _) @ _).
+        + intro u.
+          use total2_paths_f.
+          * simpl.
+            rewrite id_left.
+            apply (limArrowCommutes L).
+          * abstract (
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Limits.v:362]: Because with `abstract` here, the `Qed` at the end and this `abstract` together finish in <1 second, whereas without this `abstract`, the `Qed` at the end takes about 5 seconds.

File: UniMath/AlgebraicTheories/Examples/Plus1Presheaf.v (hunk 5 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/Examples/Plus1Presheaf.v]: To make this work with precomposition by an endofunctor `F`, one needs a lot more hypotheses. The current construction depends quite heavily on the fact that `F n = n + m` for some constant `m`. So one could make this work for any `m` instead of only `1`. However, then one gets an equivalence `stn n + m ~= stn n + stn m` instead of `stn (S n) ~= stn n + unit`, whereas the latter is easier to work with (and I need only `plus1presheaf`).

File: UniMath/CategoryTheory/DisplayedCats/Limits.v (hunk 68 above)
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/DisplayedCats/Limits.v:24]: I made them all implicit, except for the diagram and the limit in the base category.

File: UniMath/AlgebraicTheories/Examples/EndomorphismTheory.v (hunk 62 above)
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/Examples/EndomorphismTheory.v]: Yes, that is a good idea. I converted all my `Local Definition`s to `Let` statements, because that works better I think.

File: UniMath/AlgebraicTheories/AlgebraicTheoryCategory.v [hunk 74]
```diff
@@ -74,10 +101,275 @@ Definition algebraic_theory_cat
   : category
   := total_category algebraic_theory_disp_cat.
 
-Lemma is_univalent_pointed_functor_cat
-  : is_univalent pointed_functor_cat.
+(** * 2. A characterization of iso's of algebraic theories *)
+
+Definition make_algebraic_theory_z_iso
+  (a b : algebraic_theory)
+  (F : ∏ n, z_iso (C := HSET) (a n : hSet) (b n : hSet))
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/AlgebraicTheoryCategory.v:108]: Hm, I think especially `n` and `i` are not necessary, since they almost always denote a natural number and an index (in the case of algebraic theories, indexing always happens over `stn n` for some `n`), but I will do as you asked.

File: UniMath/AlgebraicTheories/AlgebraicTheoryCategory.v [hunk 75]
```diff
@@ -74,10 +101,275 @@ Definition algebraic_theory_cat
...
+          repeat (apply impred_isaprop; intro);
+          apply homset_property | ] );
+      apply funextsec;
+      intro n;
+      [ apply (z_iso_inv_after_z_iso (F n)) |
+        apply (z_iso_after_z_iso_inv (F n)) ]
+    ).
+Defined.
+
+(** * 3. Univalence [is_univalent_algebraic_theory_cat] *)
```
[the remark this answers is not in the document]
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/AlgebraicTheoryCategory.v:166]: Yes, something went wrong when organizing this file.

File: UniMath/AlgebraicTheories/PresheafCategory.v (hunk 44 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicTheories/PresheafCategory.v:137]: Another problem would be the fact that (for for example `algebraic_theory`): My chain of coercions is defined as `algebraic_theory -> algebraic_theory_data -> functor _ _`. When defining the category I convert, for example, the `T : ob algebraic_theory_data_cat` to `T : algebraic_theory_data` (to have the coercion available). However, that means that `AlgebraicTheoryCategory` requires `AlgebraicTheory`. To define `algebraic_theory` in terms of the category would add a dependency in the other direction as well. How would you organize these?

**Comment by nmvdw** [comment]
> @benediktahrens @nmvdw @rmatthes So can this PR be merged, or are there still things that need to be addressed?

The last 2 weeks I didn't have time to look at it (my apologies for that). I will look again at it this week.

File: UniMath/AlgebraicTheories/LambdaTheoryCategory.v (hunk 37 above)
Comment (nmvdw) [reply UniMath/AlgebraicTheories/LambdaTheoryCategory.v:255]: For me, `split ; intros n f` is fine. With the `use tpair`, the goals become a bit hard to manage in my head.

File: UniMath/AlgebraicTheories/PresheafCategory.v (hunk 44 above)
Comment (nmvdw) [reply UniMath/AlgebraicTheories/PresheafCategory.v:137]: > Does it work well, in the case of pseudofunctors and double categories? Are there differences in performance, or in what coercions and conversions coq can do (automatically)?

The amount of coercions that are possible, is the same. As such, it is equally convenient to use.

Regarding performance: I did not measure this. Performance differences might be more affected by sigma types versus records and how the parentheses are put.

The way I would organize it, is by defining `presheaf` by `ob (presheaf_cat)`. This way, one can get nice coercions on objects on the category, I think.

**Review by nmvdw — APPROVED** [review]
Looks good, and I think it is ready to be merged (up to 2 small comments)

**Comment by benediktahrens** [comment]
@arnoudvanderleer : could you implement the small comments by @nmvdw ? Then we can merge this PR.

**Comment by arnoudvanderleer** [comment]
> @arnoudvanderleer : could you implement the small comments by @nmvdw ? Then we can merge this PR.

I will do it today!
